US07989433B2
A mixture of (R)-2-(4-(6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl)-2-methoxyphenoxy)-1-cyclopropyl-ethyl bis(2-(trimethylsilyl)ethyl) phosphate (35.27 g, 47.06 mmoles), prepared in Part B, and anhydrous CH2Cl2 (315 mL) in a 500 mL CHEMGLASS® jacketed reactor (glycol) equipped with mechanical stirrer, temperature inlet, nitrogen/vacuum switch inlet, addition funnel and reflux condenser was stirred at 20° C. until dissolution was complete; whereupon, the internal temperature was reduced to −2° C. Once the temperature had stabilized, TFA (30.2 mL; 399.40 mmoles) was added dropwise to the stirred solution resulting in a 1.6° C. temperature rise. The reaction temperature was maintained between −0.5° C. and 1° C. (internal) as aliquots were periodically withdrawn to monitor the reaction progress by HPLC analysis. Immediately following completion of the TFA addition, HPLC analysis revealed the composition to be 9.29% starting bis ester, 44.78% monodeprotection, 42.2% desired product, 1.21% (R)-6-(4-chlorophenyl)-3-(4-(2-cyclopropyl-2-hydroxyethoxy)-3-methoxyphenyl)-thieno[3,2-d]pyrimidin-4(3H)-one and 1.25% of the main side-product. After 64 min, the composition was 0.0% starting ester, 0.62% monodeprotection, 94.36% desired product, 1.52% (R)-6-(4-chlorophenyl)-3-(4-(2-cyclopropyl-2-hydroxyethoxy)-3-methoxyphenyl)-thieno[3,2-d]pyrimidin-4(3H)-one and 2.69% of main side-product. After 95 minutes, the reaction was cooled to ˜3° C. prior to the addition of MeOH (28.5 mL) over 5 min. After stirring for 30 min, the reaction was concentrated at 50 mm Hg and 15° C. to a residual volume of ˜134 mL. The solution temperature was increased to 19° C. prior to slow addition of 120 mL of MTBE (ca 12 min). Although seeding was begun after addition of ˜30 mL, about 42-45 mL of MTBE was added before a white precipitate started to form. After stirring for 2 hours at 19-20° C., the solid was collected by filtration. Both the reactor and the filter cake were washed twice with 120 mL of MTBE/CH2Cl2 2.5:1 v/v. The very sandy white/off-white material was air-dried for 15 min with vacuum suction before drying overnight in a vacuum oven at 45° C. to obtain 25.58 g of crude product. This material, which contained some TFA by F NMR, was recrystallized by heating 24.3 g of the crude product in 200 mL of THF and 16 mL of water in a CHEMGLASS® jacketed reactor with stirring to 55-57° C. to achieve complete dissolution. The solution was heated at 60° C. for an additional 15 min, cooled to 45° C. over 10 min; whereupon 50 mL of acetone was added over Ca 5 min while maintaining the temperature above 44° C. throughout the addition. Upon completion of addition the faintly cloudy solution was seeded with previously crystallized product. Once rapid crystallization began, an additional 245 mL of acetone over 30 minutes was added maintaining the temperature above 42.5° C. throughout the addition, The resultant thick slurry was cooled to 22° C. (jacket) over ca 60 minutes and stirred for 90 min at 20-21° C. before collecting the solid by filtration. Both the reactor and the filter cake were washed first with 120 mL of acetone/THF 3:1 v/v and then with acetone (110 mL). After air drying for 40 min with vacuum suction, the solid was dried in a vacuum oven at 50° C. for 18 hr to yield 18.96 g of (R)-2-(4-(6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl)-2-methoxyphenyloxy)-1-cyclopropylethyl dihydrogen phosphate (99.2% ee, 99.4% purity in 73% yield). M.P. 166° C. 1H NMR (500 MHz, DMSO-d6) δ ppm 0.41 (m, 2H), 0.52 (m, 2H)3, 1.26 (m, 1H), 3.82 (m, 1H), 4.20 (d, 2H, J=4.29 Hz), 3.80 (s, 3H), 7.06 (dd, 1H, J=8.57, J=2.34 Hz), 7.15 (d, 1H, J=8.57 Hz), 7.22 (d, 1H, J=2.34 Hz), 7.58 (d, 2H, J=8.57 Hz), 7.93 (2H, J=8.57 Hz), 7.98 (s, 1H), 8.40 (s, 1H). 1H NMR (126 MHz, DMSO-d) δ ppm 2.4, 3.1, 13.1, 56.0, 71.0, 77.9, 112.2, 113.1, 119.8, 121.9, 122.1, 128.0, 129.4, 130.1, 131.3, 134.4, 148.4, 149.1, 149.6, 149.9, 156.2, 157.5. 31P NMR δ (162 MHz, DMSO-d6): −0.75. HPLC: 95.4% API; 0.69%. LC/MS: m/e 549.1 (M+H); 4 min gradient. High Res. Mass: C24H23O7N2CIPS calc. 549.06522; exp. 549.06531.

reactant | (R)-2-(4-(6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl)-2-methoxyphenoxy)-1-cyclopropyl-ethyl bis(2-(trimethylsilyl)ethyl) phosphate | 47.06 mmoles, 35.27 g | P(=O)(O[C@@H](COC1=C(C=C(C=C1)N1C=NC2=C(C1=O)SC(=C2)C2=CC=C(C=C2)Cl)OC)C2CC2)(OCC[Si](C)(C)C)OCC[Si](C)(C)C | C34H46ClN2O7PSSi2
reactant | TFA | 399.40 mmoles, 30.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 315 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(4-(6-(4-chlorophenyl)-4-oxothieno[3,2-d]pyrimidin-3(4H)-yl)-2-methoxyphenyloxy)-1-cyclopropylethyl dihydrogen phosphate | 18.96 g, 73% yield | P(=O)(O[C@@H](COC1=C(C=C(C=C1)N1C=NC2=C(C1=O)SC(=C2)C2=CC=C(C=C2)Cl)OC)C2CC2)(O)O | C24H22ClN2O7PS
